US07915268B2
2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-8-(methylthio)-8,9-dihydro-7H-purine.
2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-7H-purine-8(9H)-thione (4 mg, 0.009 mmol) was dissolved in 1 mL anhydrous acetonitrile, add 25 mg (0.054 mmol) 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine on polystyrene (Fluka), then 3 microliter iodomethane. The mixture was stirred at room temperature for 30 minutes. After concentration in vacuo, the residue was purified by silica gel column chromatography eluting with 2% MeOH in DCM and EtOAc to yield 2.1 mg (52%) the titled compound as a pale yellow solid.

reactant | 2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-7H-purine-8(9H)-thione | 0.009 mmol, 4 mg | FC=1C=CC2=C(N(C=N2)C2=NC=C3NC(N(C3=N2)[C@@H]2CCOC3=C(C=CC=C23)F)=S)C1 | C21H14F2N6OS
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine on polystyrene | 0.054 mmol, 25 mg | CCN(CC)P1(=NC(C)(C)C)NCCCN1C | C12H29N4P
reactant | iodomethane | 3 microliter | IC | CH3I
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-8-fluorochroman-4-yl)-8-(methylthio)-8,9-dihydro-7H-purine | 2.1 mg, 52% | FC=1C=CC2=C(N(C=N2)C2=NC=C3NC(N(C3=N2)[C@@H]2CCOC3=C(C=CC=C23)F)SC)C1 | C22H18F2N6OS
